US05217985
A 3.95 g (38.7 mmol) sample of butyric acid hydrazide was dissolved in 30 mL of methanol and treated with 5.0 g (38.8 mmol) of ethyl iminovalerate under nitrogen. The reaction was stirred at reflux for 3 days and concentrated in vacuo. Purification by silica gel chromatography (Waters Prep-500A) using ethyl acetate/hexane (80:20) gave 5.51 g (85%) of 5-butyl-3-propyl-1H-1,2,4-triazole as a colorless solid: mp 48.5°-50.0° C.; NMR (CDCl3) δ0.92 (t, J=7 Hz, 3H), 0.97 (t, J=7 Hz, 3H), 1.31-1.46 (m, 2H), 1.66-1.84 (m, 4H), 2.72 (t, J=7 Hz, 2H), 2.75 (t, J=7 Hz, 2H); MS (FAB) m/e (rel intensity) 168 (100), 166 (4), 152 (3), 138 (3), 125 (3); HRMS. Calcd for M+H: 168.1501. Found: 168.1534.

reactant | butyric acid hydrazide | C(CCC)(=O)NN | C4H10N2O
reactant | ethyl iminovalerate | 38.8 mmol, 5.0 g | N=C(C(=O)OCC)CCC | C7H13NO2
reactant | methanol | 30 mL | CO | CH4O
product | 5-butyl-3-propyl-1H-1,2,4-triazole | 5.51 g, 85% | C(CCC)C1=NC(=NN1)CCC | C9H17N3
